US08198279B2
1-(3-Tert-butyl-1-phenyl-1H-pyrazol-5-yl)-3-(4-(3-(dimethylamino)pyrido[3,2-b]pyrazin-8-yloxy)-2-fluorophenyl)urea (AA-070)
Method F2 was used with 8-(4-amino-3-fluorophenoxy)-N,N-dimethylpyrido[3,2-b]pyrazin-3-amine and 3-tert-butyl-5-isocyanato-1-phenyl-1H-pyrazole to give the product as a light yellow solid. Yield: 65 mg (90%).

reactant | 8-(4-amino-3-fluorophenoxy)-N,N-dimethylpyrido[3,2-b]pyrazin-3-amine | NC1=C(C=C(OC2=CC=NC=3C2=NC=C(N3)N(C)C)C=C1)F | C15H14FN5O
reactant | 3-tert-butyl-5-isocyanato-1-phenyl-1H-pyrazole | C(C)(C)(C)C1=NN(C(=C1)N=C=O)C1=CC=CC=C1 | C14H15N3O
product | 1-(3-Tert-butyl-1-phenyl-1H-pyrazol-5-yl)-3-(4-(3-(dimethylamino)pyrido[3,2-b]pyrazin-8-yloxy)-2-fluorophenyl)urea | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=C(C=C(C=C1)OC1=CC=NC=2C1=NC=C(N2)N(C)C)F)C2=CC=CC=C2 | C29H29FN8O2
